US07196085B2
A stirred mixture of 4-(3-amino-4-fluorobenzyl)-2H-phthalazin-1-one (0.135 g, 0.5 mmol; prepared in a manner similar to that described in Example 23), 3-benzyldihydrofuran-2,5-dione (0.095 g, 0.5 mmol) and toluene (8 ml) was heated under reflux for 1 hour, allowed to stand at ambient overnight, then heated under reflux for a further 6.5 hours and allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with hexane (10 ml) and dried in vacuo to give 2-benzyl-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid (0.156 g) as an off white solid, 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 2.2–2.95 (m 5H) (—CH2CH(CO2H)CH2Ph), 4.2 (s, 2H) (ArCH2—), 6.9–7.25 (m, 7H) (7×ArH), 7.6–7.9 (m, 4H) (4×ArH), 8.15 (d, 1H) (ArH), 9.65 (s, 1H) (chain CONH), 12.2 (s, 1H) (—CO2H), 12.5 (s, 1H) (ring CONH).

reactant | 4-(3-amino-4-fluorobenzyl)-2H-phthalazin-1-one | NC=1C=C(CC2=NNC(C3=CC=CC=C23)=O)C=CC1F | C15H12FN3O
reactant | 3-benzyldihydrofuran-2,5-dione | 0.5 mmol, 0.095 g | C(C1=CC=CC=C1)C1C(OC(C1)=O)=O | C11H10O3
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyl-N-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]succinamic acid | 0.156 g | C(C1=CC=CC=C1)C(C(=O)O)CC(=O)NC1=C(C=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O)F | C26H22FN3O4
